US07550478B2
6-(methylthio)-3-phenyl-5H-benzo[4,5]cyclohepta[1, 2-b]pyridin-5-one
6-bromo-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (15 mg, 0.04 mmol), sodium thiomethoxide (15 mg, 0.21 mmol) and copper (1) bromide (23 mg, 0.10 mmol) were combined in a dry flask. The flask was purged with argon and 0.5 mL of N,N-dimethylformamide were added. The solution was stirred and heated to 140° C. After 72 h, the reaction mixture was cooled to room temperature, diluted with EtOAc and washed with 5% HCl, brine and water. The organic layer was dried over sodium sulfate, filtered, concentrated and purified by reverse phase HPLC (30-100% acetonitrile/water gradient, 0.1% trifluoroacetic acid modifier) to afford the title compound. 1H NMR (600 MHz, CD3OD) δ 9.14 (d, 1H), 8.58 (d, 1H), 7.78 (d, 2H), 7.65 (m, 2H), 7.54 (t, 2H), 7.47 (m, 3H), 7.27 (d, 1H), 2.49 (s, 3H). LRMS (APCI) calculated for C21H16NOS [M+H]+, 330.0; found 330.1

reactant | 6-bromo-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 0.04 mmol, 15 mg | BrC1=CC=CC2=C1C(C=1C(=NC=C(C1)C1=CC=CC=C1)C=C2)=O | C20H12BrNO
reactant | sodium thiomethoxide | 0.21 mmol, 15 mg | C[S-].[Na+]
catalyst | copper (1) bromide | 0.10 mmol, 23 mg | [Cu]Br
product | 6-(methylthio)-3-phenyl-5H-benzo[4,5]cyclohepta[1, 2-b]pyridin-5-one | CSC1=CC=CC2=C1C(C=1C(=NC=C(C1)C1=CC=CC=C1)C=C2)=O | C21H15NOS
